US04859693
Part A. A solution of 1,4-dibromobenzene (20.0 g, 0.08 mole) in tetrahydrofuran (200 mL) was cooled to -70+ and treated dropwise with n-butyllithium (1.6 M in hexane; 50 mL, 0.08 mole). The solution was stirred at this temperature for 60 minutes, then was treated dropwise with 4-fluorophenacyl chloride (13.8 g, 0.08 mole). The reaction was stirred at -70° overnight, then warmed to 0° for 3 hours. Saturated aqueous ammonium chloride was added, and the aqueous phase was separated. The aqueous phase was extracted with dichloromethane, and the combined organic phases were washed with saturated brine, then dried (Na2SO4) and concentrated under reduced pressure. The crude product was chromatographed on silica gel with 9:1 hexane/ethyl acetate to provide 2-(4-fluorophenyl)-2-(4-bromophenyl)-oxirane as an oil (10.5 g, 45% yield). NMR (CDCl3) 7.5-6.9(8H), 3.3-3.1(2H).

reactant | 1,4-dibromobenzene | 0.08 mole, 20.0 g | BrC1=CC=C(C=C1)Br | C6H4Br2
reactant | n-butyllithium | 0.08 mole, 1.6 M, 50 mL | C(CCC)[Li]
reactant | 4-fluorophenacyl chloride | 0.08 mole, 13.8 g | FC1=CC=C(C(CCl)=O)C=C1 | C8H6ClFO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | 2-(4-fluorophenyl)-2-(4-bromophenyl)-oxirane | 10.5 g, 45% yield | FC1=CC=C(C=C1)C1(OC1)C1=CC=C(C=C1)Br | C14H10BrFO
